US05338857
Added to 10 ml of ethanol were 1.55 g (8.2 mmol) of 3-butyryl-l,2-benzisoxazole prepared above in the procedure (1), 0.52 ml (9.9 mmol) of a 37% aqueous solution of formaldehyde and 0.82 ml (9.8 mmol) of pyrrolidine. The resultant mixture was heated under reflux for 3 hours. After cooling, the solvent was distilled off. The residue thus obtained was added to 50 ml of ethyl acetate, followed by extraction with 50 ml of dilute hydrochloric acid. A water layer thus obtained was alkalinized with an aqueous solution of sodium hydrogencarbonate, followed by extraction with 50 ml of ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and the solvent was then distilled off, whereby 3-{2-(1-pyrrolidinylmethyl)-butyryl}-1,2-benzisoxazole was obtained as oil. Analytical results of the crystals obtained: Yield: 1.65 g (74%).

reactant | 3-butyryl-l,2-benzisoxazole | 8.2 mmol, 1.55 g | C(CCC)(=O)C1=NOC2=C1C=CC=C2 | C11H11NO2
reactant | formaldehyde | C=O | CH2O
reactant | pyrrolidine | 9.8 mmol, 0.82 ml | N1CCCC1 | C4H9N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-{2-(1-pyrrolidinylmethyl)-butyryl}-1,2-benzisoxazole | N1(CCCC1)CC(C(=O)C1=NOC2=C1C=CC=C2)CC | C16H20N2O2
